US05273986
A solution of 0.256 g of (E)-3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]benzeneamine and 0.148 g of 3-isochromanone was heated in a 126° C. oil bath for 17 hr. The residual materials were purified by silica gel chromatography using ethyl acetate-hexane (1:4 v/v) as the eluant to yield (E)-2-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzyl alcohol.

reactant | (E)-3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]benzeneamine | 0.256 g | C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)N | C15H16N2S
reactant | 3-isochromanone | 0.148 g | C1OC(CC2=CC=CC=C12)=O | C9H8O2
product | (E)-2-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzyl alcohol | C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)NC(CC1=C(CO)C=CC=C1)=O | C24H24N2O2S
